US05591891
Using the procedure described in Example 60, but starting with 3-acetylthio-2-(1-indanyl)propanoic acid and alanine benzyl ester, N-[3-acetylthio-2-(1-indanyl)-1-oxopropyl)alanine benzyl ester is obtained in a 72% yield in the form of a white solid, having the following characteristics: m.p.: 95° C.; Rf =0.17 [cyclohexane/ethyl acetate (4:1 by volume)].

reactant | 3-acetylthio-2-(1-indanyl)propanoic acid | C(C)(=O)SCC(C(=O)O)C1CCC2=CC=CC=C12 | C14H16O3S
reactant | alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
product | N-[3-acetylthio-2-(1-indanyl)-1-oxopropyl)alanine benzyl ester | 72% yield | C(C1=CC=CC=C1)OC([C@@H](NC(C(CSC(C)=O)C1CCC2=CC=CC=C12)=O)C)=O | C24H27NO4S
